US07737141B2
Synthesis of (3R,5R)-3-(3,4-difluorophenyl)-5-(1-hydroxyethyl)morpholine-4-carboxylic acid 9H-fluorene-9-ylmethyl ester
Under a nitrogen atmosphere, a tetrahydrofuran (35 mL) solution containing dimethylsulfoxide (530 μL) was cooled to −78° C. To the reaction solution was then dropwise added oxalyl chloride (608 μL), and this solution was stirred at the same temperature for 5 minutes. A solution of tetrahydrofuran (25 mL) containing (3R,5S)-3-(3,4-difluorophenyl)-5-hydroxymethylmorpholine-4-carboxylic acid 9H-fluorene-9-ylmethyl ester (2.5 g) was then dropwise added thereto, and the solution was stirred at the same temperature for 30 minutes. To the reaction solution was then added triethylamine (3.7 mL), and the reaction mixture was stirred at the same temperature for 30 minutes followed by stirring at room temperature for 1 hour. The resultant solution was diluted with saturated aqueous ammonium chloride, and this solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure. The resultant residue was diluted with tetrahydrofuran (15 mL), and the resultant solution was cooled to −78° C. To the reaction solution was dropwise added methylmagnesium bromide (8.33 mL, 0.97 M tetrahydrofuran solution), and the resultant solution was stirred at the same temperature for 1 hour. The solution was then diluted with saturated aqueous ammonium chloride and ethyl acetate, and the organic layer was partitioned. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure. The residue was purified by silica gel column chromatography (heptane/ethyl acetate 95/5→1/1), to thereby obtain the titled compound (950 mg). The physical properties of this crude product were as follows.

reactant | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
reactant | dimethylsulfoxide | 530 μL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 608 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | (3R,5S)-3-(3,4-difluorophenyl)-5-hydroxymethylmorpholine-4-carboxylic acid 9H-fluorene-9-ylmethyl ester | 2.5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1[C@@H](COC[C@@H]1CO)C1=CC(=C(C=C1)F)F | C26H23F2NO4
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | triethylamine | 3.7 mL | C(C)N(CC)CC | C6H15N
product | (3R,5R)-3-(3,4-difluorophenyl)-5-(1-hydroxyethyl)morpholine-4-carboxylic acid 9H-fluorene-9-ylmethyl ester | 950 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1[C@@H](COC[C@@H]1C(C)O)C1=CC(=C(C=C1)F)F | C27H25F2NO4
